US04783453
Preparation of p-Nitrobenzyl (5R,6S)-2-(2-azidoacetamido)-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate (34)
A solution of p-nitrobenzyl (5R,6S)-2-amino-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate (35 mg, 0.1 mmol) in anhydrous tetrahydrofuran (2 ml) is cooled to -25° C. and treated with 4-dimethylamino pyridine (15.9 mg, 0.13 mmol) and, dropwise over 5 minutes, with a solution of 2-azidoacetyl chloride (14.3 mg, 0.12 mmol) in tetrahydrofuran (0.5 ml). The resulting mixture is stirred under a nitrogen atmosphere at 0° C. for 4 hours. The mixture is diluted with ethyl acetate, washed with pH 3 phosphate buffer, water, 5% aqueous sodium bicarbonate and brine, dried over magnesium sulfate, filtered, and evaporated under vacuum. The residue is chromatographed on a silica gel thin layer preparative plate to afford the title compound.

reactant | p-nitrobenzyl (5R,6S)-2-amino-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate | 0.1 mmol, 35 mg | NC=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O | C16H17N3O6
reactant | 2-azidoacetyl chloride | 0.12 mmol, 14.3 mg | N(=[N+]=[N-])CC(=O)Cl | C2H2ClN3O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylamino pyridine | 0.13 mmol, 15.9 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-Nitrobenzyl (5R,6S)-2-(2-azidoacetamido)-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate | N(=[N+]=[N-])CC(=O)NC=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O | C18H18N6O7
